US06414148B1
A mixture of 6,7-dimethoxy-5-nitro-3,4-dihydroquinazolin-4-one (1.75 g, 7.0 mmol) and thionyl chloride (25 ml) and DMF (3 drops) was heated at reflux for 2 hours. Excess thionyl chloride was removed by evaporation and the residue azeotroped with toluene. 3-Hydroxy-4-methylaniline (0.94 g, 7.6 mmol) in 2-propanol (40 ml) was added to the residue and the mixture heated at reflux for 2 hours. The mixture was allowed to cool, the precipitate collected by filtration, washed with 2-propanol and dried to give 6,7-dimethoxy-4-(3-hydroxy-4-methylanilino)-5-nitroquinazoline hydrochloride (2.02 g, 81%).

reactant | 6,7-dimethoxy-5-nitro-3,4-dihydroquinazolin-4-one | 7.0 mmol, 1.75 g | COC=1C(=C2C(NC=NC2=CC1OC)=O)[N+](=O)[O-] | C10H9N3O5
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-Hydroxy-4-methylaniline | 7.6 mmol, 0.94 g | OC=1C=C(N)C=CC1C | C7H9NO
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | 2-propanol | 40 ml | CC(C)O | C3H8O
product | 6,7-dimethoxy-4-(3-hydroxy-4-methylanilino)-5-nitroquinazoline hydrochloride | 2.02 g, 81% | Cl.COC=1C(=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)C)O)[N+](=O)[O-] | InChI=1S/C17H16N4O5.ClH/c1-9-4-5-10(6-12(9)22)20-17-14-11(18-8-19-17)7-13(25-2)16(26-3)15(14)21(23)24;/h4-8,22H,1-3H3,(H,18,19,20);1H
